US08754103B2
Optional Step 3. Preparation of 4-((difluoro(6-(4-(trifluoromethoxy)phenyl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methoxy)methyl)-2-phenyl-5-(trifluoromethyl)oxazole, a compound of Formula I
In a 5 mL microwave vial under a nitrogen atmosphere 3-(Chloro-difluoro-methyl)-6-(4-trifluoromethoxy-phenyl)-[1,2,4]triazolo[4,3-a]pyridine (100 mg, 0.275 mmol), (2-phenyl-5-(trifluoromethyl)oxazol-4-yl)methanol (107 mg, 0.440 mmol), and NaH (39 mg, 0.96 mmol) in DMF (3 ml) were combined and stirred for 10 minutes. The reaction mixture was quenched with 1M HCl and concentrated before being purified the product, 4-((difluoro(6-(4-(trifluoromethoxy)phenyl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methoxy)methyl)-2-phenyl-5-(trifluoromethyl)oxazole, by prep-HPLC(HCl).

reactant | 3-(Chloro-difluoro-methyl)-6-(4-trifluoromethoxy-phenyl)-[1,2,4]triazolo[4,3-a]pyridine | 0.275 mmol, 100 mg | ClC(C1=NN=C2N1C=C(C=C2)C2=CC=C(C=C2)OC(F)(F)F)(F)F | C14H7ClF5N3O
reactant | (2-phenyl-5-(trifluoromethyl)oxazol-4-yl)methanol | 0.440 mmol, 107 mg | C1(=CC=CC=C1)C=1OC(=C(N1)CO)C(F)(F)F | C11H8F3NO2
reactant | NaH | 0.96 mmol, 39 mg | [H-].[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 4-((difluoro(6-(4-(trifluoromethoxy)phenyl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methoxy)methyl)-2-phenyl-5-(trifluoromethyl)oxazole | FC(OCC=1N=C(OC1C(F)(F)F)C1=CC=CC=C1)(C1=NN=C2N1C=C(C=C2)C2=CC=C(C=C2)OC(F)(F)F)F | C25H14F8N4O3
